US08383819B2
2,4-Dimethoxybenzoic acid (30.0 g) was suspended in acetic acid (180 mL). A bromine (27.6 g)/acetic acid (60 mL) solution was slowly added dropwise to the suspension and, after completion of the dropwise addition, the mixture was stirred at 25° C. for 2 hrs, and the termination of the reaction was confirmed by HPLC. An aqueous solution of sodium sulfite (2.10 g) and water (360 mL) was added dropwise to the reaction mixture. After completion of the dropwise addition, the mixture was stirred at 25° C. for 1 hr. Precipitated crystals were filtered, washed 4 times with water (150 mL), and vacuum dried to give 5-bromo-2,4-dimethoxybenzoic acid as white crystals (41.2 g) (96%).

reactant | 2,4-Dimethoxybenzoic acid | 30.0 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | bromine | 27.6 g | BrBr | Br2
reactant | sodium sulfite | 2.10 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 360 mL | O | H2O
solvent | acetic acid | 180 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-2,4-dimethoxybenzoic acid | 41.2 g, 96% | BrC=1C(=CC(=C(C(=O)O)C1)OC)OC | C9H9BrO4
